US04808762
To a stirred mixture of 7.4 grams (0.196 mole) of lithium aluminum hydride in 300 mL of dry diethyl ether under a nitrogen atmosphere was added 26.2 grams (0.098 mole) of ethyl 3-(3-phenoxyphenyl)acrylate in 300 mL of dry diethyl ether. The addition required 90 minutes to complete, and the reaction mixture was stirred overnight at ambient temperature. It was then cooled in an ice/water bath, and sequentially 14 mL of water, 14 mL of a 15% aqueous solution of sodium hydroxide, and 42 mL of water were all added dropwise. This mixture was filtered, and the filtrate was dried over anhydrous sodium sulfate. After being filtered, the solvent was evaporated under reduced pressure, leaving 21.9 grams of 3-(3-phenoxyphenyl)propanol as an oil. The nmr spectrum was consistent with the proposed structure.

reactant | lithium aluminum hydride | 0.196 mole, 7.4 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 3-(3-phenoxyphenyl)acrylate | 0.098 mole, 26.2 grams | O(C1=CC=CC=C1)C=1C=C(C=CC1)C=CC(=O)OCC | C17H16O3
reactant | water | 14 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 42 mL | O | H2O
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | 3-(3-phenoxyphenyl)propanol | 21.9 grams | O(C1=CC=CC=C1)C=1C=C(C=CC1)CCCO | C15H16O2
